* C:\Users\matot\OneDrive - Stellenbosch University\2026\MechatronicsProject478\Datasheets for components\Spice component models\Skripsie Spice model.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N004 0 3.3
R1 N006 N004 1k
Q1 N003 N006 N005 0 2N3904
X§X1 N003 N005 0 TIP41C
R2 0 N006 10k
R3 N002 N003 6.25
L1 N001 N002 1.202m
V2 N001 0 6V
D1 N001 N003 1N4007
.model D D
.lib C:\Users\matot\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\matot\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 30ms
* .lib tip41c.lib
.backanno
.end
