* C:\Users\matot\OneDrive - Stellenbosch University\2026\MechatronicsProject478\Datasheets for components\Spice component models\Skripsie Spice model.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N004 0 3.3
R1 N006 N004 1k
Q1 N003 N006 N005 0 2N3904
X§X1 N003 N005 0 TIP41C
R2 0 N006 10k
R3 N002 N003 6.25
L1 N001 N002 1.202m
V2 N001 0 6V
D1 N003 N001 1N4007
.model D D
.lib C:\Users\matot\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\matot\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 30ms
* TIP41C NPN Power Transistor Subcircuit Model
.subckt TIP41C C B E
* Connections: Collector, Base, Emitter
Q1 C_int B_int E internal_npn
RC C C_int 0.05
RB B B_int 1.0
.model internal_npn NPN (
+ IS = 1.2e-12
+ BF = 75
+ VAF = 60
+ IKF = 3.0
+ ISE = 1.2e-11
+ NE = 2.0
+ RE = 0.05
+ RC = 0.02
+ CJC = 120p
+ CJE = 400p
+ TR = 1u
+ TF = 50n)
.ends TIP41C
.backanno
.end
